US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-difluoromethyl-pyrimidine hydrochloride
0.5 g of 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol (3.87 mmol) were reacted with 1.34 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-difluoromethyl-pyrimidine (3.87 mmol) to yield 0.58 g of the title compound.

reactant | 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol | 3.87 mmol, 0.5 g | CN1C(=NN=C1C)S | C4H7N3S
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-difluoromethyl-pyrimidine | 3.87 mmol, 1.34 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(F)F | C16H25ClF2N4
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-difluoromethyl-pyrimidine hydrochloride | 0.58 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C)C(F)F | InChI=1S/C20H31F2N7S.ClH/c1-14-25-26-19(27(14)5)30-12-6-7-28-8-10-29(11-9-28)16-13-15(17(21)22)23-18(24-16)20(2,3)4;/h13,17H,6-12H2,1-5H3;1H
